US06136810
Magnesium (4.8 g, 200 mmol) was added to a tetrahydrofuran (400 ml) solution of 3-bromochlorobenzene (38 g, 200 mmol), and the mixture was stirred at room temperature. Since spontaneous exothermic reaction occurred, the stirring was continued until the exothermicity was ceased. The reaction solution was cooled to -40° C., mixed with 2-chloro-6-methylnicotinic acid (9.2 g, 53 mmol) and then stirred overnight at room-temperature. The reaction solution was mixed with saturated ammonium chloride aqueous solution and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, magnesium sulfate was removed by filtration and then the filtrate was concentrated under a reduced pressure. Thereafter, the resulting residue was purified by silica gel column chromatography (chloroform) to give 2-chloro-3-(3-chlorobenzoyl)-6-methylpyridine (6.25 g, 44%) as an oily material.

reactant | Magnesium | 200 mmol, 4.8 g | [Mg] | Mg
reactant | 3-bromochlorobenzene | 200 mmol, 38 g | BrC=1C=C(C=CC1)Cl | C6H4BrCl
reactant | 2-chloro-6-methylnicotinic acid | 53 mmol, 9.2 g | ClC1=C(C(=O)O)C=CC(=N1)C | C7H6ClNO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | 2-chloro-3-(3-chlorobenzoyl)-6-methylpyridine | 6.25 g, 44% | ClC1=NC(=CC=C1C(C1=CC(=CC=C1)Cl)=O)C | C13H9Cl2NO
